US08133998B2
To a suspension of 5-methyl-6-(4-phenylpiperazine-1-carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one, (0.4 g, 1.13 mmol) in CH3CN (5 mL) was added K2CO3 (0.156 g, mmol), KI (0.182 g, 1.13 mmol), and 2-(4,4-difluoropiperidin-1-yl)acetyl chloride (0.223 g, 1.13 mmol). The reaction mixture was refluxed overnight and then quenched with H2O (20 mL). The resultant precipitate was filtered and dried to provide a crude solid which was purified by flash chromatography (Et2O:DCM, 1:1) providing 0.29 g of pure 3-(2-(4,4-difluoropiperidin-1-yl)-2-oxoethyl)-5-methyl-6-(4-phenyl piperazine-1 carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one, (yield: 50%).

reactant | 5-methyl-6-(4-phenylpiperazine-1-carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one | 1.13 mmol, 0.4 g | CC1=C(SC=2N=CNC(C21)=O)C(=O)N2CCN(CC2)C2=CC=CC=C2 | C18H18N4O2S
reactant | K2CO3 | 0.156 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(4,4-difluoropiperidin-1-yl)acetyl chloride | 1.13 mmol, 0.223 g | FC1(CCN(CC1)CC(=O)Cl)F | C7H10ClF2NO
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 3-(2-(4,4-difluoropiperidin-1-yl)-2-oxoethyl)-5-methyl-6-(4-phenyl piperazine-1 carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one | 0.29 g, yield: 50% | FC1(CCN(CC1)C(CN1C=NC2=C(C1=O)C(=C(S2)C(=O)N2CCN(CC2)C2=CC=CC=C2)C)=O)F | C25H27F2N5O3S
